US04215127
Bromine (26.42 g, 0.165 mole) was slowly added to a stirred solution of 19.2 g (0.165 mole) of 3-methoxy-3-methyl-2-butanone in 400 ml. diethyl ether at 15° C. After the addition was complete, the solvent was evaporated, and the residual orange oil distilled to give 22 g (68% yield) of 1-bromo-3-methoxy-3-methyl-2-butanone, b.p. 57°-59° C./1.7 mm. Hg.

reactant | Bromine | 0.165 mole, 26.42 g | BrBr | Br2
reactant | 3-methoxy-3-methyl-2-butanone | 0.165 mole, 19.2 g | COC(C(C)=O)(C)C | C6H12O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-bromo-3-methoxy-3-methyl-2-butanone | 22 g, 68% yield | BrCC(C(C)(C)OC)=O | C6H11BrO2
